US04473690
1,1-Diphenylhexyllithium was prepared by reacting n-butyllithium with 1,1-diphenylethylene in toluene at 40° C. for 72 h.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,1-diphenylethylene | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,1-Diphenylhexyllithium | C1(=CC=CC=C1)C(CCCCC)(C1=CC=CC=C1)[Li] | InChI=1S/C18H21.Li/c1-2-3-6-15-18(16-11-7-4-8-12-16)17-13-9-5-10-14-17;/h4-5,7-14H,2-3,6,15H2,1H3;
